US08242125B2
93-A. (±)-3-({6-[1-(3-Trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-pyrimidin-4-ylmethyl}-amino)-pyrrolidine-1-carboxylic acid tert-butyl ester
To the solution of methanesulfonic acid (±)-6-[1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-pyrimidin-4-ylmethyl ester (80 mg, 0.158 mmol) in THF (5 mL), 3-amino-pyrrolidine-1-carboxylic acid tert-butyl ester (88 mg, 0.474 mmol) and diisopropylethylamine (61 mg, 0.474 mmol) are added. The resulting solution is stirred at 60° C. overnight. After cooling to rt, the reaction mixture is diluted with EtOAc and washed with water and then brine. The organic layer is dried with anhydrous Na2SO4, filtered, and condensed. The residue is purified by FCC (0-10% MeOH/DCM) to provide the title compound. MS (ESI) m/z 597.2 (M+1).

reactant | methanesulfonic acid (±)-6-[1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-pyrimidin-4-ylmethyl ester | 0.158 mmol, 80 mg | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=N1)COS(=O)(=O)C)(F)F | C22H17F3N4O5S
reactant | 3-amino-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.474 mmol, 88 mg | C(C)(C)(C)OC(=O)N1CC(CC1)N | C9H18N2O2
reactant | diisopropylethylamine | 0.474 mmol, 61 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (±)-3-({6-[1-(3-Trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-pyrimidin-4-ylmethyl}-amino)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NCC1=NC=NC(=C1)OC=1C=C2C=CN(C2=CC1)C(NC1=CC(=CC=C1)C(F)(F)F)=O | C30H31F3N6O4
